US04343810
Chloroacetonitrile (40 ml) and 2,4-dichloroaniline (81.0 g) were heated with stirring in a 250 ml round-bottomed three-necked flask at 120°-125° C. for 1.0 hour and then for approximately 1 hour at 140°-145° C. The reaction mixture was cooled, diluted with CH2Cl2, and then placed in a separatory funnel and water added. Shaking the mixture resulted in crystal formation. The mixture was filtered and 39.2 g of 2,4-dichloroaniline hydrochloride removed. The CH2Cl2 layer was then separated from the filtrate and the CH2Cl2 layer treated with diatomaceous earth and activated charcoal and then filtered. The CH2Cl2 was then evaporated off, leaving a black viscous gum which on cooling with stirring solidified. Recrystallization from carbon tetrachloride gave 21.5 g of 2,4-dichloroanilinoacetonitrile.

reactant | Chloroacetonitrile | 40 ml | ClCC#N | C2H2ClN
reactant | 2,4-dichloroaniline | 81.0 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,4-dichloroanilinoacetonitrile | 21.5 g | ClC1=C(NCC#N)C=CC(=C1)Cl | C8H6Cl2N2
